US09238640B2
Preparation of N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)pyrrolidin-3-yl)-N-methylacetamide
A solution of 2-amino-4,6-dimethoxybenzamide (0.797 g, 4.07 mmol) and N-(1-(4-formylphenyl)pyrrolidin-3-yl)-N-methylacetamide (1.0 g, 4.07 mmol) in DMA (75 mL) was treated with NaHSO3 (0.466 g, 4.5 mmol) and p-TsOH (0.078 g, 0.41 mmol). The mixture was heated at 150° C. for 15 hours, cooled to room temperature, diluted with CH2Cl2 (200 mL), and washed with saturated NaHCO3 (100 mL) and water (200 mL). The organic phase was dried over anhydrous MgSO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 92:7:1 CHCl3/MeOH/concentrated NH4OH, to afford the title compound (1.5 g, 88%) as a light brown solid. 1H NMR (300 MHz, DMSO-d6): δ 11.68 (s, 1H), 8.10 (d, J=8.8 Hz, 2H), 6.55-6.67 (m, 3H), 6.44 (d, J=2.2 Hz, 1H), 4.67-5.22 (m, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 3.43-3.60 (m, 2H), 3.22-3.26 (m, 2H), 2.76-2.89 (m, 3H), 1.91-2.27 (m, 5H). ESI MS m/z 423 [M+H]+.

reactant | 2-amino-4,6-dimethoxybenzamide | 4.07 mmol, 0.797 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | N-(1-(4-formylphenyl)pyrrolidin-3-yl)-N-methylacetamide | 4.07 mmol, 1.0 g | C(=O)C1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)C | C14H18N2O2
reactant | NaHSO3 | 4.5 mmol, 0.466 g | OS(=O)[O-].[Na+]
reactant | p-TsOH | 0.41 mmol, 0.078 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DMA | 75 mL | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)pyrrolidin-3-yl)-N-methylacetamide | 1.5 g, 88% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)C)=O | C23H26N4O4
